US08212041B2
tert-butyl 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate
A suspension of tert-butyl 4-bromo-2-chlorobenzylcarbamate (1670 mg, 5209 μmol), bis(pinacolato)diboron (1455 mg, 5730 μmol), dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct (190.6 mg, 260.4 μmol), and potassium acetate (1022 mg, 10418 μmol) in dioxane (8 mL) was sparged with argon for 5 min then heated to 120° C. in an appropriately sealed vial with stirring. After 1 h, reaction partitioned between DCM (50 mL) and 5% NaHCO3 (25 mL). Organic dried over MgSO4, concentrated, then purified on 80 g silica eluting with 0>40% EtOAc/hexanes and product isolated as a viscous amber oil.

reactant | tert-butyl 4-bromo-2-chlorobenzylcarbamate | 5209 μmol, 1670 mg | BrC1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)Cl | C12H15BrClNO2
reactant | bis(pinacolato)diboron | 5730 μmol, 1455 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 10418 μmol, 1022 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct | 260.4 μmol, 190.6 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | tert-butyl 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate | ClC1=C(CNC(OC(C)(C)C)=O)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C18H27BClNO4
